.subckt full_adder inA inB inC Sum Carry vdd gnd
    .include NOT.sub
    .include AND.sub
    .include XOR.sub
    .include OR.sub

    X1 inA inB s1 vdd 0 XOR
    X2 inA inB c1 vdd 0 AND

    X3 s1 inC Sum vdd 0 XOR

    X4 s1 inC s2 vdd 0 AND
    X5 c1 s2 Carry vdd 0 OR
.ends full_adder