.subckt full_adder A B C Sum Carry vdd gnd
    .include NOT.sub
    .include AND.sub
    .include XOR.sub
    .include OR.sub

    X1 A B s1 vdd 0 XOR
    X2 A B c1 vdd 0 AND

    X3 s1 C Sum vdd 0 XOR

    X4 s1 C s2 vdd 0 AND
    X5 c1 s2 Carry vdd 0 OR
.ends full_adder